US06835745B2
3-Chloro-4-methoxyphenylboronic Acid
Starting from 4-bromo-2-chloroanisole (5.0 g, 23 mmol) in place of 4-bromo-3-trifluoromethylanisole, the title compound (2.6 g, 62%) was synthesized in essentially the same manner as described above for 4-methoxy-2-trifluoromethylphenylboronic acid in Step 2, Scheme 1.

reactant | 4-bromo-2-chloroanisole | 23 mmol, 5.0 g | BrC1=CC(=C(C=C1)OC)Cl | C7H6BrClO
reactant | 4-methoxy-2-trifluoromethylphenylboronic acid | COC1=CC(=C(C=C1)B(O)O)C(F)(F)F | C8H8BF3O3
product | 3-Chloro-4-methoxyphenylboronic Acid | 2.6 g, 62% | ClC=1C=C(C=CC1OC)B(O)O | C7H8BClO3
